US07432378B2
{2-(6-Chloro-4-methyl-1H-benzoimidazol-2-yl)-5-[3-(1-methyl-piperidin-4-yl)-propoxy]-benzyl}-dimethyl-amine
{2-(6-Chloro-4-methyl-1H-benzoimidazol-2-yl)-5-[3-(1-methyl-piperidin-4-yl)-propoxy]-benzyl}-dimethyl-amine. To a solution of {2-bromo-5-[3-(1-methyl-piperidin-4-yl)-propoxy]-benzyl}-dimethyl-amine (801 mg, 2.2 mmol, 1.0 equiv) in THF (10 mL) at −78° C., 1.7 M tert-butyllithium in pentane (3.83 mL, 6.5 mmol, 3.0 equiv) was added and the solution was stirred for 15 min. The solution was then warmed to 0° C., stirred for 5 min, and then re-cooled to −78° C. DMF (1.68 mL, 21.7 mmol, 10.0 equiv) was added and the mixture was stirred for 30 min. Water (1.0 mL) was added and the mixture was poured into satd. aq. NaHCO3. The aqueous mixture was extracted three times with ethyl acetate and the combined extracts were dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was partially purified by Method 2 to afford 221 mg of a mixture of 2-dimethylaminomethyl-4-[3-(1-methyl-piperidin-4-yl)-propoxy]-benzaldehyde and several other unidentified products. The crude dimethylaminomethyl-4-[3-(methyl-piperidin-4-yl)-propoxy]-benzaldehyde (110 mg) was dissolved in DMF and 5-chloro-3-methyl-benzene-1,2-diamine (54 mg, 0.34 mmol) and Na2S2O5 (85 mg, 0.45 mmol) were added. The mixture was warmed to 90° C. and stirred for 3 h. The reaction mixture was purified by Method 2 to afford 15.2 mg of the title compound. MS (electrospray): mass calculated for C26H35ClN4O, 454.25; m/z found, 455.5 [M+H]+. 1H NMR (400 MHz, CD3OD): 8.07 (d, J=8.6 Hz, 1H), 7.47-7.42 (m, 1H), 7.07-6.97 (m, 3H), 4.04 (t, J=6.4 Hz, 2H), 3.58 (s, 2H), 2.93-2.82 (m, 2H), 2.56 (s, 3H), 2.43 (s, 6H), 2.27 (s, 3H), 2.06-1.93 (m, 2H), 1.87-1.70 (m, 4H), 1.49-1.40 (m, 2H), 1.36-1.21 (m, 3H).

reactant | dimethylaminomethyl-4-[3-(methyl-piperidin-4-yl)-propoxy]-benzaldehyde | 110 mg | CN(C)CC1=C(C=O)C=CC(=C1)OCCCC1CCN(CC1)C | C19H30N2O2
reactant | 5-chloro-3-methyl-benzene-1,2-diamine | 0.34 mmol, 54 mg | ClC1=CC(=C(C(=C1)N)N)C | C7H9ClN2
solvent | DMF | CN(C)C=O | C3H7NO
product | {2-(6-Chloro-4-methyl-1H-benzoimidazol-2-yl)-5-[3-(1-methyl-piperidin-4-yl)-propoxy]-benzyl}-dimethyl-amine | 15.2 mg | ClC=1C=C(C2=C(NC(=N2)C2=C(CN(C)C)C=C(C=C2)OCCCC2CCN(CC2)C)C1)C | C26H35ClN4O
